US05110815
5-Amino-5,6,7,8-tetrahydro-5-(phenylmethyl)-2(1H)-quinolinone hydrochloride
A mixture of 5,6,7,8-tetrahydro-5-(phenylmethyl)-2-(phenylmethoxy)-5-quinolinamine (19.1 g) and 10% palladium-on-carbon (1.5 g) in ethanol (1 l) was acidified to about pH 2-3 with 2propanol/hydrochloric acid solution. The mixture was shaken on Parr hydrogenation apparatus, starting at 55 psi of hydrogen, until hydrogen uptake ceased. The catalyst was removed by filtration, the filtrate was neutralized with 4-polyvinylpyridine and concentrated. The residue was triturated with a mixture of methanol and ethyl acetate. The precipitate was collected and recrystallized form water/methanol/ethyl acetate to afford 4.6 g (28%) of product, mp 235°-238° C. (dec), in two crops.

reactant | 5,6,7,8-tetrahydro-5-(phenylmethyl)-2-(phenylmethoxy)-5-quinolinamine | 19.1 g | C1(=CC=CC=C1)CC1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)N | C23H24N2O
reactant | 2propanol hydrochloric acid | CC(C)O.Cl
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1 l | C(C)O | C2H6O
catalyst | palladium-on-carbon | 1.5 g | [Pd] | Pd
product | 5-Amino-5,6,7,8-tetrahydro-5-(phenylmethyl)-2(1H)-quinolinone hydrochloride | 4.6 g, 28% | Cl.NC1(C=2C=CC(NC2CCC1)=O)CC1=CC=CC=C1 | InChI=1S/C16H18N2O.ClH/c17-16(11-12-5-2-1-3-6-12)10-4-7-14-13(16)8-9-15(19)18-14;/h1-3,5-6,8-9H,4,7,10-11,17H2,(H,18,19);1H
